US07378417B2
(S)-[1-(3-Amino-benzenesulfonyl)-pyrrolidin-2-yl]-methanol
By subjecting 3-nitro-benzenesulfonyl chloride and L-prolinol in analogous manner to the procedure described in example B.13, the title compound was obtained. Pale-yellow oil. MS (ISP) 257.3 [(M+H)+].

reactant | 3-nitro-benzenesulfonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | L-prolinol | N1[C@H](CO)CCC1 | C5H11NO
product | (S)-[1-(3-Amino-benzenesulfonyl)-pyrrolidin-2-yl]-methanol | NC=1C=C(C=CC1)S(=O)(=O)N1[C@@H](CCC1)CO | C11H16N2O3S
